US05576324
N-(2-methyl-4,5-dimethoxyphenyl)cinnamamide
To a solution of 4,5-dimethoxy-2-methylaniline (40.1 g), pyridine (48.5 ml), and acetone (350 ml), cinnamoyl chloride (44.0 g) was added dropwise at room temperature over 15 minutes. After allowing to react at room temperature for 2 hours, water (15 ml) was added and the mixture was stirred for 20 minutes. The solvent was distilled off under reduced pressure, and the residue was dissolved in chloroform, followed by washing with 1N HCl, 1N caustic soda and water in this order, and drying. Chloroform was evaporated. Precipitated crystals were collected by filtration with ether. 69.8 g of the title compound was obtained as yellow crystals (97.8%).

reactant | 4,5-dimethoxy-2-methylaniline | 40.1 g | COC1=CC(=C(N)C=C1OC)C | C9H13NO2
reactant | pyridine | 48.5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetone | 350 ml | CC(=O)C | C3H6O
reactant | cinnamoyl chloride | 44.0 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | water | 15 ml | O | H2O
product | N-(2-methyl-4,5-dimethoxyphenyl)cinnamamide | 69.8 g | CC1=C(C=C(C(=C1)OC)OC)NC(C=CC1=CC=CC=C1)=O | C18H19NO3
